US09447091B2
(Z)—N-(2′,4′-difluoro-5-(5-(1-(hydroxyimino)ethyl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide
To a solution of N-(5-(5-acetyl-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide (110 mg, 0.235 mmol) in ethanol was added hydroxyl amine hydrochloride (24.7 mg, 0.353 mmol) and the mixture was heated at 80° C. for 2 h. The mixture was concentrated under vacuum and washed with ether to afford the product in 49% yield (55 mg). 1H NMR (400 MHz, DMSO-d6): δ 9.00 (s, 1H), 8.03 (s, 1H), 7.82-7.70 (m, 3H), 7.60-7.58 (d, 2H), 7.52 (s, 1H), 7.46-7.40 (m, 1H), 7.27-7.24 (m, 1H), 2.86-2.83 (m, 1H), 2.25 (s, 3H), 1.01-1.00 (m, 4H); LC-MS (ESI): Calculated mass: 482.5; Observed mass: 483.1 [M+H]+ (rt: 1.475 min).

reactant | N-(5-(5-acetyl-1H-benzo[d]imidazol-1-yl)-2′,4′-difluoro-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide | 0.235 mmol, 110 mg | C(C)(=O)C1=CC2=C(N(C=N2)C=2C=C(C=C(C2)C2=C(C=C(C=C2)F)F)NS(=O)(=O)C2CC2)C=C1 | C24H19F2N3O3S
reactant | hydroxyl amine hydrochloride | 0.353 mmol, 24.7 mg | Cl.ON
solvent | ethanol | C(C)O | C2H6O
product | (Z)—N-(2′,4′-difluoro-5-(5-(1-(hydroxyimino)ethyl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)cyclopropanesulfonamide | 49% yield | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)\C(\C)=N/O)NS(=O)(=O)C2CC2 | C24H20F2N4O3S
